US05721245
A solution of 1.03 g of ethyl 6,7-dihydro-9-hydroxypyrido[1,2-a]indole-8-carboxylate in 20 ml of ethanol, 10 ml of water and 10 ml of concentrated hydrochloric acid was heated at 80° C. for 3 hours. The solvents were evaporated to give 740 mg of 7,8-dihydropyrido[1,2-a]indol-9(6H)-one of melting point 138°-140° C.

reactant | ethyl 6,7-dihydro-9-hydroxypyrido[1,2-a]indole-8-carboxylate | 1.03 g | OC1=C(CCN2C1=CC1=CC=CC=C21)C(=O)OCC | C15H15NO3
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 7,8-dihydropyrido[1,2-a]indol-9(6H)-one | 740 mg | C1=C2C=C3N(C2=CC=C1)CCCC3=O | C12H11NO
